US07524845B2
To a solution of 2-chloro-3-cyanopyridine (139 mg) in tetrahydrofuran (5 mL) at 0° C. was added dropwise a solution of MeMgBr (3M in ether, 0.67 mL). The resultant mixture was warmed to room temperature and stirred for 3 hr. The reaction solution was cooled to 0° C. and to it was added aqueous HCl solution (2M, 5 mL). The reaction solution was then stirred an additional 16 hr at room temperature and then neutralized by the addition of saturated sodium bicarbonate (NaHCO3) solution. The reaction solution was filtered to remove any precipitates and the filtrate was washed with ethyl acetate (3×10 mL) and aqueous brine (NaCl) solution (10 mL). The organic layer was dried over sodium sulfate (Na2SO4), filtered and concentrated in vacuo to give 3-acetyl-2-chloropyridine as a yellow powder which was used without further purification. The title compound (3-Methyl-1H-pyrazolo[3,4-b]pyridine) was synthesized from 3-acetyl-2-chloropyridine according to the procedure outlined in Example 2.

reactant | 2-chloro-3-cyanopyridine | 139 mg | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | MeMgBr | 3M, 0.67 mL | C[Mg+].[Br-]
reactant | HCl | 2M, 5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-acetyl-2-chloropyridine | C(C)(=O)C=1C(=NC=CC1)Cl | C7H6ClNO
